US04824958
Following the procedure described in Example 119, methyl 3,4-dihydroxy-5-phenyl-2-furancarboxylate (4.80 g, 21.6 mmol is treated with potassium tert-butoxide (5.85 g, 52.3 mmol, 1.21 equiv) and 2-bromopropane (21.0 g, 170.4 mmol, 3.94 equiv) in dimethyl sulfoxide (70 mL) at room temperature for 6.5 hours to give 5.62 g of crude methyl 3,4-diisopropoxy-5-phenyl-2-furancarboxylate as a red oil.

reactant | methyl 3,4-dihydroxy-5-phenyl-2-furancarboxylate | OC1=C(OC(=C1O)C1=CC=CC=C1)C(=O)OC | C12H10O5
reactant | potassium tert-butoxide | 52.3 mmol, 5.85 g, 1.21 equiv | CC(C)([O-])C.[K+]
reactant | 2-bromopropane | 170.4 mmol, 21.0 g, 3.94 equiv | BrC(C)C | C3H7Br
solvent | dimethyl sulfoxide | 70 mL | CS(=O)C | C2H6OS
product | methyl 3,4-diisopropoxy-5-phenyl-2-furancarboxylate | 5.62 g | C(C)(C)OC1=C(OC(=C1OC(C)C)C1=CC=CC=C1)C(=O)OC | C18H22O5
